US08975254B2
a) 2,6-difluoro-4-(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)benzonitrile
The title compound was prepared from 4-bromo-2,6-difluorobenzonitrile (2.5 g, 11.47 mmol) and 1-(tetrahydro-2H-pyran-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (3.51 g, 12.61 mmol) using the method of Example 34(a) producing 3.61 g of title compound. 1H-NMR (400 MHz; d6-DMSO): δ 1.52-1.67 (m, 3H), 1.81-1.87 (m, 1H), 1.95-1.99 (m, 1H), 2.33-2.41 (m, 1H), 3.59-3.65 (m, 1H), 3.94-3.98 (m, 1H), 5.36-5.39 (m, 1H), 6.77 (d, 1H), 7.62 (s, 1H), 7.64 (s, 1H), 7.66 (d, 1H).

reactant | 4-bromo-2,6-difluorobenzonitrile | 11.47 mmol, 2.5 g | BrC1=CC(=C(C#N)C(=C1)F)F | C7H2BrF2N
reactant | 1-(tetrahydro-2H-pyran-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 12.61 mmol, 3.51 g | O1C(CCCC1)N1N=CC=C1B1OC(C(O1)(C)C)(C)C | C14H23BN2O3
product | 2,6-difluoro-4-(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)benzonitrile | 3.61 g | FC1=C(C#N)C(=CC(=C1)C1=CC=NN1C1OCCCC1)F | C15H13F2N3O
